US09085555B2
3-[({(1R,3S,5R)-2-[2-(3-Acetyl-indol-1-yl)-acetyl]-2-aza-bicyclo[3.1.0]hexane-3-carbonyl}-amino)-methyl]-5-chloro-4-fluoro-benzoic acid
The title compound was prepared according to procedure described for the preparation of 3-[({(2S,4R)-1-[2-(3-acetyl-indol-1-yl)-acetyl]-4-fluoro-pyrrolidine-2-carbonyl}-amino)-methyl]-5-chloro-4-fluoro-benzoic acid Example 605 starting from 3-[({(1R,3S,5R)-2-[2-(3-acetyl-indol-1-yl)-acetyl]-2-aza-bicyclo[3.1.0]hexane-3-carbonyl}-amino)-methyl]-5-chloro-4-fluoro-benzoic acid methyl ester Example 480. MS: 512.0 [M+H]+; tR (HPLC conditions c): 4.41 min.

reactant | 3-[({(2S,4R)-1-[2-(3-acetyl-indol-1-yl)-acetyl]-4-fluoro-pyrrolidine-2-carbonyl}-amino)-methyl]-5-chloro-4-fluoro-benzoic acid | C(C)(=O)C1=CN(C2=CC=CC=C12)CC(=O)N1[C@@H](C[C@H](C1)F)C(=O)NCC=1C=C(C(=O)O)C=C(C1F)Cl | C25H22ClF2N3O5
reactant | 3-[({(1R,3S,5R)-2-[2-(3-acetyl-indol-1-yl)-acetyl]-2-aza-bicyclo[3.1.0]hexane-3-carbonyl}-amino)-methyl]-5-chloro-4-fluoro-benzoic acid methyl ester | COC(C1=CC(=C(C(=C1)Cl)F)CNC(=O)[C@H]1N([C@@H]2C[C@@H]2C1)C(CN1C=C(C2=CC=CC=C12)C(C)=O)=O)=O | C27H25ClFN3O5
product | 3-[({(1R,3S,5R)-2-[2-(3-Acetyl-indol-1-yl)-acetyl]-2-aza-bicyclo[3.1.0]hexane-3-carbonyl}-amino)-methyl]-5-chloro-4-fluoro-benzoic acid | C(C)(=O)C1=CN(C2=CC=CC=C12)CC(=O)N1[C@@H]2C[C@@H]2C[C@H]1C(=O)NCC=1C=C(C(=O)O)C=C(C1F)Cl | C26H23ClFN3O5
